US07544704B2
2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridine
A mixture of 4-iodo-5-methyl-3-phenylisoxazole (285 mg, 1.00 mmol), palladium(II) acetate (7 mg, 0.03 mmol), 1,3-bis(diphenylphosphino)propane (12 mg, 0.03 mmol), triethylamine (348 μL, 2.50 mmol) and 2-ethynylpyridine (131 μL, 1.30 mmol) in N,N-dimethylformamide (2 mL) was evaporated and flushed with argon. Cuprous iodide (4 mg, 0.02 mmol) was added and the reaction mixture was stirred for 3 h at 90° C. before cooling to ambient temperature and separated between aqueous sodium hydroxide (1 M, 30 mL) and ethyl acetate (50 mL). The aqueous layer was extracted with ethyl acetate (50 mL) and washed with aqueous sodium hydroxide (1 M, 30 mL). The combined organic layers were dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 67:33) afforded the title compound (60 mg, 23%) as a light brown solid. MS: m/e=261.2 [M+H]+.

reactant | 4-iodo-5-methyl-3-phenylisoxazole | 1.00 mmol, 285 mg | IC=1C(=NOC1C)C1=CC=CC=C1 | C10H8INO
reactant | 1,3-bis(diphenylphosphino)propane | 0.03 mmol, 12 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 2.50 mmol, 348 μL | C(C)N(CC)CC | C6H15N
reactant | 2-ethynylpyridine | 1.30 mmol, 131 μL | C(#C)C1=NC=CC=C1 | C7H5N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.03 mmol, 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridine | 60 mg, 23% | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC1=NC=CC=C1 | C17H12N2O
